US06030952
3-[3-Allyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylic acid
A solution of ethyl 3-[3-allyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylate (790 mg, 1.78 mmol) and sodium hydroxide (720 mg, 17.8 mmol) in THF (20 ml) is heated to reflux for 24 h. The mixture is treated with water and ethyl acetate, and acidified to pH 1 with a concentrated hydrochloric acid solution. After separation, the organic phase is washed twice with water, dried over magnesium sulphate, and concentrated in vacuo at 40° C. in a rotary evaporator. The solid obtained is washed with heptane.

reactant | ethyl 3-[3-allyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylate | 1.78 mmol, 790 mg | C(C=C)C1(COC2=C1C=C(C=C2)C=CC(=O)OCC)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C30H36O3
reactant | sodium hydroxide | 17.8 mmol, 720 mg | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-Allyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3-dihydrobenzofuran-5-yl]acrylic acid | C(C=C)C1(COC2=C1C=C(C=C2)C=CC(=O)O)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C28H32O3
